US06831106B1
e) Methyl 5′-[3,4-bis(1-phenylmethanoyloxymethyl)-benzyloxy]-2,2′-dimethylbiphenyl-4-carboxylate
In a manner similar to that of Example 1(i), by reaction of 2.24 g (8.7 mmol) of methyl 5′-hydroxy-2,2′-dimethylbiphenyl-4-carboxylate with 4.20 mg (9.6 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 1.26 g (9 mmol) of potassium carbonate, the desired product is obtained in the form of a colourless oil (m=5.34 g; Y=99%).

reactant | methyl 5′-hydroxy-2,2′-dimethylbiphenyl-4-carboxylate | 8.7 mmol, 2.24 g | OC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(=O)OC)C)C | C16H16O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 9.6 mmol, 4.20 mg | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 9 mmol, 1.26 g | C([O-])([O-])=O.[K+].[K+]
product | Methyl 5′-[3,4-bis(1-phenylmethanoyloxymethyl)-benzyloxy]-2,2′-dimethylbiphenyl-4-carboxylate | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC=2C=CC(=C(C2)C2=C(C=C(C=C2)C(=O)OC)C)C)C=CC1COC(=O)C1=CC=CC=C1 | C39H34O7
